US05672715
Preparation of 1-Chloro-4-(1,1-diethoxypropyl)benzene.
A solution of 15.0 g of p-chloropropiophenone and 7.8 mL of dry EtOH was treated with 22.0 mL of triethyl orthoformate. Gaseous HCl was bubbled through the solution until saturation and the reaction mixture heated to reflux overnight. An additional 14.8 mL of triethyl orthoformate was added and the reaction mixture allowed to cool to room temperature. The cooled mixture was washed with 10% Na2CO3, extracted with diethyl ether and concd in vacuo to afford 19.0 g (88%) of a crude orange/yellow oil. The oil was distilled and a fraction collected (75°-96° C., 100 mtorr) which contained 13.4 g of 1-chloro-4-(1,1-diethoxypropyl)benzene: μ (23,D) 1.5612; 1HNMR (CDCl3) δ 0.56 (t, 3H, 7.5 Hz), 1.19 (t, 6H, 7.0 Hz), 1.89 (q, 2H, 7.5 Hz), 3.36 (m, 4H), 7.28 (d, 2H, 8.5 Hz), 7.42 (d, 2H, 8.5 Hz). Anal. Calcd for C13H19O2Cl: C, 64.32; H, 7.89. Found: C, 64.09; H, 7.81.

reactant | p-chloropropiophenone | 15.0 g | ClC1=CC=C(C=C1)C(CC)=O | C9H9ClO
reactant | triethyl orthoformate | 22.0 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | EtOH | 7.8 mL | CCO | C2H6O
product | 1-Chloro-4-(1,1-diethoxypropyl)benzene | 19.0 g, 88% | ClC1=CC=C(C=C1)C(CC)(OCC)OCC | C13H19ClO2
